US08557834B2
6-[5-{[(Carboxymethyl)amino]carbonothioyl}-3-cyclohexyl-6-hydroxy-2,4-dioxo-3,4-dihydro-1(2H)-pyrimidinyl]hexanoic acid
A mixture of ethyl 6-(3-cyclohexyl-2,4,6-trioxotetrahydro-1(2H)-pyrimidinyl)hexanoate (330 mg, 0.94 mmoles), diisopropylethylamine (324 uL, 1.87 mmoles) and ethyl isothiocyanatoacetate (139 uL, 1.12 mmoles) in chloroform (20 mL) was stirred for 7 days. The mixture was washed with 1 molar hydrochloric acid (×2), dried and evaporated. The residue was purified by flash chromatography (hexane—20% ethyl acetate in hexane) to give the title compound as a clear oil (250 mg, 60%). The diester was dissolved in ethanol (3 mL) and treated with 1 molar sodium hydroxide (2 mL). The mixture was stirred overnight, taken up in ethyl acetate and washed with 1 molar hydrochloric acid (×2), dried and evaporated. Crystallization from acetic acid afforded the title compound (160 mg, 40%). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.13 (br s, 1 H), 12.50 (s, 1 H), 12.03 (br s, 1 H), 4.71 (m, 1 H), 4.35 (d, J=5.05 Hz, 2 H), 3.84 (t, J=7.20 Hz, 2 H), 2.10-2.38 (m, 4 H), 1.80 (d, J=12.63 Hz, 2 H), 1.42-1.71 (m, 7 H), 1.21-1.42 (m, 4 H), 1.01-1.22 (m, 1 H).

reactant | ethyl 6-(3-cyclohexyl-2,4,6-trioxotetrahydro-1(2H)-pyrimidinyl)hexanoate | 0.94 mmoles, 330 mg | C1(CCCCC1)N1C(N(C(CC1=O)=O)CCCCCC(=O)OCC)=O | C18H28N2O5
reactant | diisopropylethylamine | 1.87 mmoles, 324 uL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl isothiocyanatoacetate | 1.12 mmoles, 139 uL | N(=C=S)CC(=O)OCC | C5H7NO2S
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-[5-{[(Carboxymethyl)amino]carbonothioyl}-3-cyclohexyl-6-hydroxy-2,4-dioxo-3,4-dihydro-1(2H)-pyrimidinyl]hexanoic acid | 250 mg, 60% | C(=O)(O)CNC(=S)C=1C(N(C(N(C1O)CCCCCC(=O)O)=O)C1CCCCC1)=O | C19H27N3O7S
